US07563903B2
4.2 Ethyl (E)-3-(3-thienyl)-2-propenoate
11.5 g of potassium carbonate and 6.8 ml of iodoethane are added to 11 g of (E)-3-(3-thienyl)-2-propenoic acid, obtained in step 4.1, in solution in 50 ml of dimethylformamide, and the mixture is stirred for 48 hours at 20° C. The medium is taken up in ethyl acetate and it is washed with water. The organic phase is dried over anhydrous sodium sulphate and it is concentrated to give 12.5 g of oil.

reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 6.8 ml | ICC | C2H5I
reactant | (E)-3-(3-thienyl)-2-propenoic acid | 11 g | S1C=C(C=C1)/C=C/C(=O)O | C7H6O2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (E)-3-(3-thienyl)-2-propenoate | 12.5 g | S1C=C(C=C1)/C=C/C(=O)OCC | C9H10O2S
